US04436748
A mixture of 6.0 g of 6,7-dichloro-5-methoxy-2-phenylbenzo[b]thiophene and 42 g of pyridine hydrochloride is stirred at 190°-195° for 4 hours. The slightly cooled reaction mixture is poured into a mixture of 800 g of ice and 10 ml of conc. hydrochloric acid. Extraction with ether, followed by washing and drying, yields 5.23 g of 6,7-dichloro-5-hydroxy-2-phenylbenzo[b]thiophene as an off-white solid, mp 122°-124°. Recrystallization from ether-hexane yields prisms, mp 124°-126°.

reactant | 6,7-dichloro-5-methoxy-2-phenylbenzo[b]thiophene | 6.0 g | ClC=1C(=CC2=C(SC(=C2)C2=CC=CC=C2)C1Cl)OC | C15H10Cl2OS
reactant | pyridine hydrochloride | 42 g | Cl.N1=CC=CC=C1
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 6,7-dichloro-5-hydroxy-2-phenylbenzo[b]thiophene | 5.23 g | ClC=1C(=CC2=C(SC(=C2)C2=CC=CC=C2)C1Cl)O | C14H8Cl2OS
